US08912188B2
To a solution of (4-methoxyphenyl)methyl 2-(1,2-benzoxazol-5-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate (50 mg, 0.10 mmol) in dichloromethane (10 mL) was added 2,2,2-trifluoroacetic acid (1 mL). The solution was stirred for 30 min at room temperature. Then the reaction was quenched by the addition of water (100 mL), extracted with dichloromethane (3×30 mL), dried over anhydrous sodium sulfate and concentrated in vacuo to give a residue, which was purified by silica gel column chromatography eluting with 5% dichloromethane in methanol to afford 2-(1,2-benzoxazol-5-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylic acid as a yellow solid (12.3 mg, 33%).

reactant | (4-methoxyphenyl)methyl 2-(1,2-benzoxazol-5-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylate | 0.10 mmol, 50 mg | O1N=CC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1N=C2N(C(C)C)C)C(=O)OCC2=CC=C(C=C2)OC | C28H26N4O4
reactant | 2,2,2-trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(1,2-benzoxazol-5-yl)-3-[methyl(propan-2-yl)amino]quinoxaline-6-carboxylic acid | 12.3 mg, 33% | O1N=CC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1N=C2N(C(C)C)C)C(=O)O | C20H18N4O3
